US08729068B2
A mixture of 250 mg of methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, 83 mg of 3-(methylamino)propane-1,2-diol, and 2.5 mL of dichloromethane was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (hexane-chloroform) to obtain 241 mg of methyl 4-{2-[4-({[2-({3-[(2,3-dihydroxypropyl)(methyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate as a pale yellow foamed solid.

reactant | methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 250 mg | ClS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C32H29ClN2O6S2
reactant | 3-(methylamino)propane-1,2-diol | 83 mg | CNCC(CO)O | C4H11NO2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | methyl 4-{2-[4-({[2-({3-[(2,3-dihydroxypropyl)(methyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 241 mg | OC(CN(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)C)CO | C36H39N3O8S2
